* NGSPICE file created from nmos_test.ext - technology: sky130A

.subckt nmos_test
X0 w_n734_n737# w_n734_n737# w_n734_n737# w_n734_n737# sky130_fd_pr__nfet_01v8 ad=1.425 pd=6.95 as=5.7 ps=27.8 w=3 l=0.15
X1 a_15_n286# a_n33_n482# a_n110_n286# w_n734_n737# sky130_fd_pr__nfet_01v8 ad=1.425 pd=6.95 as=1.425 ps=6.95 w=3 l=0.15
X2 w_n734_n737# w_n734_n737# w_n734_n737# w_n734_n737# sky130_fd_pr__nfet_01v8 ad=1.425 pd=6.95 as=0 ps=0 w=3 l=0.15
.ends

