* NGSPICE file created from nmos_test.ext - technology: sky130A

.subckt nmos_test
X0 w_n734_n737# w_n734_n737# w_n734_n737# w_n734_n737# sky130_fd_pr__nfet_01v8 ad=1.425 pd=6.95 as=5.7 ps=27.8 w=3 l=0.15
X1 a_15_n286# a_n33_n482# a_n110_n286# w_n734_n737# sky130_fd_pr__nfet_01v8 ad=1.425 pd=6.95 as=1.425 ps=6.95 w=3 l=0.15
X2 w_n734_n737# w_n734_n737# w_n734_n737# w_n734_n737# sky130_fd_pr__nfet_01v8 ad=1.425 pd=6.95 as=0 ps=0 w=3 l=0.15
C0 a_n110_n286# w_n734_n737# 0.283328f
C1 dw_n734_n737# w_n734_n737# 6.4915f
C2 a_15_n286# a_n33_n482# 0.045575f
C3 a_n110_n286# a_n33_n482# 0.055698f
C4 a_15_n286# a_n110_n286# 0.598904f
C5 a_n33_n482# w_n734_n737# 0.279309f
C6 a_15_n286# w_n734_n737# 0.387693f
C7 a_15_n286# a_n884_n887# 0.047764f
C8 a_n110_n286# a_n884_n887# 0.048094f
C9 a_n33_n482# a_n884_n887# 0.035076f
C10 w_n734_n737# a_n884_n887# 2.05305f
C11 dw_n734_n737# a_n884_n887# 6.4915f $ **FLOATING
.ends

